US04992474
2-[(4-Chlorobutyl)oxy]tetrahydropyran
Dihydropyran (15.5 g) was added dropwise to a mixture of 4-chlorobutanol (20 g) and hydrochloric acid (18M, 1 drop) at RT. The mixture was stirred for 30 min and washed with H2O (100 ml), aqueous NaHCO3 (1M, 50 ml) and BR (50 ml). The dried liquid was heated under reduced pressure to leave the title compound as a colourless liquid (31.9 g). T.l.c. [L] Rf 0.5.

reactant | Dihydropyran | 15.5 g | O1CCCC=C1 | C5H8O
reactant | 4-chlorobutanol | 20 g | ClCCCCO | C4H9ClO
catalyst | hydrochloric acid | 18M, 1 drop | Cl | ClH
product | 2-[(4-Chlorobutyl)oxy]tetrahydropyran | 31.9 g | ClCCCCOC1OCCCC1 | C9H17ClO2
